US08580957B2
Methyl 3-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (for a preparation see Intermediate 99) (319 mg, 0.751 mmol) was added to a cold (ice bath) suspension of aluminium chloride (381 mg, 2.86 mmol) in dichloromethane (DCM) (5 mL). The resulting mixture was stirred at approximately 0° C. for 30 min then was treated with a solution of methanol (0.400 mL) and triethylamine (1.266 mL, 9.09 mmol). The reaction was stirred further at approximately 0° C. for 20 min then was diluted with EtOAc (35 mL) and a saturated NaHCO3 aqueous solution (35 ml). The reaction mixture was then filtered through celite and the insoluble residues were washed with EtOAc (25 mL) and NaHCO3 (25 mL. The filtered aluminum residues were suspended in MeOH and sonicated. The resulting suspension was filtered and the filtrate was concentrated in vacuo to yield a white solid which was loaded onto a 20 g SCX cartridge and eluted with MeOH and then with 2M NH3 in MeOH. The ammonia fractions were combined and concentrated in vacuo to give methyl 3-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (50 mg, 20%).

reactant | Methyl 3-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1)NC(=O)OC(C)C)C | C24H28N2O5
reactant | aluminium chloride | 2.86 mmol, 381 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | triethylamine | 9.09 mmol, 1.266 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 35 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | EtOAc | 35 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 0.400 mL | CO | CH4O
product | methyl 3-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | 50 mg, 20% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1)N)C | C20H22N2O3
